US08541575B2
1-[3-(3-nitrophenyl)-1H-pyrazol-4-yl]ethanone
To a solution of 350 mg (1.6 mmol) of 4-ethynyl-3-(3-nitrophenyl)-1H-pyrazole in a mixture of 50 ml of dioxane and 0.5 ml (28 mmol) of water, 0.5 ml (6.5 mmol) of trifluoroacetic acid were added. The reaction was heated at 100° C. under stirring for 2 hours. The organic solvent was removed under reduced pressure and the residue partitioned between ethylacetate and aqueous sodium hydrogenocarbonate. The organic layer was then dried over sodium sulphate and evaporated to dryness, affording, after trituration with diethylether, 251 mg (68%) of the title compound.

reactant | 4-ethynyl-3-(3-nitrophenyl)-1H-pyrazole | 1.6 mmol, 350 mg | C(#C)C=1C(=NNC1)C1=CC(=CC=C1)[N+](=O)[O-] | C11H7N3O2
reactant | water | 28 mmol, 0.5 ml | O | H2O
reactant | trifluoroacetic acid | 6.5 mmol, 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diethylether | C(C)OCC | C4H10O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-[3-(3-nitrophenyl)-1H-pyrazol-4-yl]ethanone | 251 mg, 68% | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC=C1C(C)=O | C11H9N3O3
